* Auto-generated by tools/run_h1_matrix.py
* case_id=sm_015
* polarity_mode=mixed
* voltage_mv=20
* voc_a_mv=20
* voc_b_mv=20
* ramp_mvps=1
* ratio_b_to_a=20
* t_stop_s=25.0
* tran_step_s=0.003125
* C_STORE=1.11409e-05
* VSTART_DEAD=0.00379746
* SCOUT_R=139341
* SCOUT_C=5.21613e-09
* G_SCOUT_CTRL=4.02742e-08
* CONF_EPS=0.00112764
* CONF_AMP_FLOOR=0.0116841
* CONF_R=125873
* CONF_C=4.83659e-07
* G_CONF_CTRL=7.64248e-09
* DEEPEN variant: confidence-gated abstention on the packet scaffold.

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/source_pair_models.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/startup_cells.inc"
.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/packet_scout_blocks.inc"

.param VLEVEL=20m
.param VOC_A=20m
.param VOC_B=20m
.param R_UNIT=1k
.param RATIO=20
.param R_A=927.474782
.param R_B=20695.749312
.param POL_A=1
.param POL_B=-1
.param RAMP_MVPS=1
.param C_STORE=10u
.param R_LOAD=100meg
.param V_HANDOFF=1.2
.param V_HANDOFF_FALL=1.0
.param TSTOP=25.0

.param C_STORE=1.11409e-05
.param VSTART_DEAD=0.00379746
.param SCOUT_R=139341
.param SCOUT_C=5.21613e-09
.param G_SCOUT_CTRL=4.02742e-08
.param CONF_EPS=0.00112764
.param CONF_AMP_FLOOR=0.0116841
.param CONF_R=125873
.param CONF_C=4.83659e-07
.param G_CONF_CTRL=7.64248e-09

VMEAS_A src_a_p n_src_a_p 0
VMEAS_B src_b_p n_src_b_p 0
XSOURCES src_a_p n_src_a_n src_b_p n_src_b_n source_pair

BMON_A n_src_a 0 V = { V(n_src_a_p,n_src_a_n) }
BMON_B n_src_b 0 V = { V(n_src_b_p,n_src_b_n) }
RREF_A n_src_a_n 0 1g
RREF_B n_src_b_n 0 1g

XROUTE_A n_src_a_p n_src_a_n n_a_bus_p n_a_bus_n fw_router
XROUTE_B n_src_b_p n_src_b_n n_b_bus_p n_b_bus_n fw_router

VCTRL_MON n_store n_ctrl 0
XCORE n_a_bus_p n_a_bus_n n_b_bus_p n_b_bus_n n_store n_ctrl n_handoff n_conf n_commit confidence_gated_packet_gate

CSTORE n_store 0 {C_STORE} ic=0
RLOAD n_store 0 {R_LOAD}

.include "/home/archivara/work/repo/results/concept_evolve/tree/001_packet_scout_handoff_root/netlists/shared/measurement_hooks.inc"

.measure tran t_commit when v(n_commit)=0.5 rise=1
.measure tran conf_final find v(n_conf) at={TSTOP}

.tran 0.003125 25.0 0 0.003125
.end
